US07557152B2
21.3 g (100 mmol) of 2-allyl-4-bromophenol, 12.1 g (120 mmol) of triethylamine (hereinafter referred to as “TEA”), and 120 ml of distilled tetra hydrofuran (hereinafter referred to as “THF”) were loaded into a 300-ml four-necked flask equipped with a reflux pipe with a calcium chloride dry pipe, a dropping funnel, a nitrogen gas introducing pipe, and a mechanical stirring device. The mixture was placed under nitrogen, and was stirred at 0 to 5° C. During the stirring, 11.0 g (120 mmol) of chlorotrimethylsilane were slowly added to the mixture from the dropping funnel. After the completion of the dropping, the resultant was subjected to a reaction at the temperature for 1 hour and then at room temperature for 6 hours. After that, the solvent, excessive trimethylamine, and excessive chlorotrimethylsilane were removed by condensation under reduced pressure, and the residue was washed with water and dried. Thus, 2-allyl-4-bromo-1-trimethylsiloxybenzene was quantitatively obtained.

reactant | 2-allyl-4-bromophenol | 100 mmol, 21.3 g | C(C=C)C1=C(C=CC(=C1)Br)O | C9H9BrO
reactant | triethylamine | 120 mmol, 12.1 g | C(C)N(CC)CC | C6H15N
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | chlorotrimethylsilane | 120 mmol, 11.0 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | O1CCCC1 | C4H8O
solvent | tetra hydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-allyl-4-bromo-1-trimethylsiloxybenzene | C(C=C)C1=C(C=CC(=C1)Br)O[Si](C)(C)C | C12H17BrOSi
